US07414060B2
Step 4: 6-Ethyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid ethyl ester:
Palladium catalysed arylation of 3-Bromo-6-cyclopropyl-pyridine-2-carboxylic acid ethyl ester with 5-Aminopyrimidine according to the general procedure described in example 78 step 3 yielded the title compound as a white solid, MS (ISP): m/e=273.3 (M+H+).

reactant | 3-Bromo-6-cyclopropyl-pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC=C1Br)C1CC1 | C11H12BrNO2
reactant | 5-Aminopyrimidine | NC=1C=NC=NC1 | C4H5N3
catalyst | Palladium | [Pd] | Pd
product | 6-Ethyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC=C1NC=1C=NC=NC1)CC | C14H16N4O2
